US05001262
Process of claim 1 wherein 2,3,5,6-tetrachlorophenylhydrazine is prepared by reacting 2,3,5,6-tetrachloronitrobenzene with hydrazine hydrate.

reactant | 2,3,5,6-tetrachloronitrobenzene | ClC1=C(C(=C(C=C1Cl)Cl)Cl)[N+](=O)[O-] | C6HCl4NO2
reactant | hydrazine hydrate | O.NN
product | 2,3,5,6-tetrachlorophenylhydrazine | ClC1=C(C(=C(C=C1Cl)Cl)Cl)NN | C6H4Cl4N2
